US06503949B1
trans-4-[(4-Hydroxycyclohexylamino)methyl]benzoic acid methyl ester (2.46 g, 9.3 mmol) was suspended in sodium hydroxide (1N, 9 mL). Di-tert-butylpyrocarbonate (2.44 g, 11.2 mmol) dissolved in THF (11 mL) was added during 15 minutes. Additional THF (8 mL) was added and the reaction mixture was stirred for 16 hours. The reaction mixture was evaporated in vacuo until THF was removed. Water (25 mL), sodium hydroxide (1N, 1.5 mL), and diethyl ether (50 mL) was added. The water phase was extracted with diethyl ether (25 mL) and the combined organic phases were washed with an aqueous solution of sodium hydrogensulphate (10%, 30 mL), water (3×20 mL), and dried (MgSO4). The organic phase was concentrated in vacuo to give 3.60 g of trans-4-{[tert-butoxycarbonyl-(4-hydroxycyclohexyl)amino]methyl}benzoic acid methyl ester.

reactant | trans-4-[(4-Hydroxycyclohexylamino)methyl]benzoic acid methyl ester | 9.3 mmol, 2.46 g | COC(C1=CC=C(C=C1)CN[C@@H]1CC[C@H](CC1)O)=O | C15H21NO3
reactant | Di-tert-butylpyrocarbonate | 11.2 mmol, 2.44 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | sodium hydroxide | 1N, 9 mL | [OH-].[Na+]
solvent | THF | 11 mL | C1CCOC1 | C4H8O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | trans-4-{[tert-butoxycarbonyl-(4-hydroxycyclohexyl)amino]methyl}benzoic acid methyl ester | 3.60 g | COC(C1=CC=C(C=C1)CN([C@@H]1CC[C@H](CC1)O)C(=O)OC(C)(C)C)=O | C20H29NO5
